US08232312B2
5-(3,5-dichloro-phenylsulphonylamino)-indole-1-carboxylic acid-phenylamide
Yield: 124 mg (the product also contains 3,5-dichloro-N-(1H-indol-5-yl)-phenylsulphonamide and diphenylurea)

reactant | 3,5-dichloro-N-(1H-indol-5-yl)-phenylsulphonamide | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)NC=1C=C2C=CNC2=CC1 | C14H10Cl2N2O2S
reactant | diphenylurea | C=1C=CC(=CC1)NC(=O)NC=2C=CC=CC2 | C13H12N2O
product | 5-(3,5-dichloro-phenylsulphonylamino)-indole-1-carboxylic acid-phenylamide | C1(=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC(=CC(=C1)Cl)Cl | C21H15Cl2N3O3S
